US07649114B2
10 g (0.04 mol) of the enantiomeric pair (2R,3R)/(2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol were dissolved in 40 ml of ethanol and treated with stirring with 3 g of 85 wt. % ortho-phosphoric acid. After 24 h, the crystals formed were filtered off under reduced pressure and dried for 24 h in a drying cabinet at 40° C. to a final pressure of 10 mbar. 2.2 g (16% of theoretical) of (2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol phosphate were obtained as colourless crystals with an enantiomeric purity of 85%.

reactant | (2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol | CN(C[C@@H]([C@](CC)(O)C1=CC(=CC=C1)OC)C)C | C15H25NO2
reactant | ortho-phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol phosphate | 2.2 g, 16% | P(=O)(O)(O)O[C@]([C@H](CN(C)C)C)(CC)C1=CC(=CC=C1)OC | C15H26NO5P
